US08975276B2
methyl 2-((tert-butoxycarbonyl)amino)isonicotinate
A 500 mL round bottomed flask was charged with methyl 2-aminoisonicotinate (5.0 g, 32.9 mmol) and suspended in t-BuOH (200 mL). To this stirring solution was added di-tert-butyl dicarbonate (7.53 g, 34.5 mmol). The flask was vented and placed in an oil bath preheated to 50° C. The reaction mixture was let stir overnight. After 22 hours LCMS showed near complete conversion of starting material. The mixture was cooled to room temperature and filtered to yield 5.93 g of white solid. The material was taken on without any further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.14 (1H, s), 8.43 (1H, dd, J=5.02, 0.75 Hz), 8.33 (1H, s), 7.45 (1H, dd, J=5.02, 1.51 Hz), 3.89 (3H, s), 1.48 (9H, s).

reactant | methyl 2-aminoisonicotinate | 32.9 mmol, 5.0 g | NC=1C=C(C(=O)OC)C=CN1 | C7H8N2O2
reactant | di-tert-butyl dicarbonate | 34.5 mmol, 7.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-BuOH | 200 mL | CC(C)(C)O | C4H10O
product | methyl 2-((tert-butoxycarbonyl)amino)isonicotinate | 5.93 g | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)OC)C=CN1 | C12H16N2O4
